US08809538B2
4-phenyl-2-furaldehyde
Phenylboronic acid (1.46 g) was added to a stirred mixture of 4-bromofuran-2-carbaldehyde (2.00 g) and tetrakis(triphenylphosphine)palladium(0) (0.396 g) in N,N-dimethylformamide (57 mL) and a solution of sodium carbonate (3.03 g) in water (7 mL). The reaction was heated at 110° C. overnight. The resulting mixture was filtered and the filtrate was partitioned between water and diethyl ether. The layers were separated and the aqueous phase was extracted with diethyl ether. The organics were combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (dichloromethane:hexane=9:1) to obtain the title compound (1.55 g) having the following physical data.

reactant | Phenylboronic acid | 1.46 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 4-bromofuran-2-carbaldehyde | 2.00 g | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | sodium carbonate | 3.03 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 57 mL | CN(C=O)C | C3H7NO
solvent | water | 7 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.396 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-phenyl-2-furaldehyde | 1.55 g | C1(=CC=CC=C1)C=1C=C(OC1)C=O | C11H8O2
